US06605617B2
4-Amino-3-benzimidazol-2-yl-6-(4-methylpiperazinyl)hydroquinolin-2-one
Ethyl 2-benzimidazol-2-ylacetate (1.1 eq) and 2-amino-5-(4-methylpiperazinyl)benzenecarbonitrile (1.0 eq) were dissolved in 1,2-dichloroethane, and then SnCl4 (11 eq) was added. The mixture was heated at reflux overnight. Upon cooling, the mixture was concentrated in vacuo. NaOH (3 M) was added to the solid, and the mixture heated at 80° C. for 0.5 hours. The solid was filtered and washed sequentially with H2O, CH2Cl2, and acetone. LC/MS indicated that the product was present in the acetone layer and the solid. These fractions were combined and purified by silica gel chromatography (5-10% MeOH in CH2Cl2 with 1% Et3N) to give the desired product. LC/MS m/z 375.4 (MH+), Rf 1.65 minutes.

reactant | Ethyl 2-benzimidazol-2-ylacetate | 1.1 eq | N1=C(NC2=C1C=CC=C2)CC(=O)OCC | C11H12N2O2
reactant | 2-amino-5-(4-methylpiperazinyl)benzenecarbonitrile | 1.0 eq | NC1=C(C=C(C=C1)N1CCN(CC1)C)C#N | C12H16N4
reactant | SnCl4 | 11 eq | Cl[Sn](Cl)(Cl)Cl
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-Amino-3-benzimidazol-2-yl-6-(4-methylpiperazinyl)hydroquinolin-2-one | CN1CCN(CC1)C2=CC3=C(C(=C4NC5=CC=CC=C5N4)C(=O)N=C3C=C2)N | C21H22N6O
